### PR TITLE
[Merged by Bors] - feat(Data/Set/Finite): `Set.Finite.sigma`

### PR DESCRIPTION
**Pull request by peakpoint**
---

might be worth extracting the corresponding lemma for pi types too

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Finite/Sigma.lean [hunk 1]
```diff
@@ -0,0 +1,36 @@
...
+/-- A finite sum of finite sets is finite -/
+lemma Finite.sigma (hs : s.Finite) (ht : ∀ i ∈ s, (t i).Finite) :
+    (s.sigma t).Finite := by
+  lift s to Finset ι using hs
+  classical
+  apply Finite.ofFinset <| s.sigma fun i ↦ if h : i ∈ s then (ht i h).toFinset else ∅
+  intro ⟨i, k⟩
+  simp only [mem_sigma, mem_sigma_iff, SetLike.mem_coe, and_congr_right_iff]
+  intro h
+  simp [dif_pos h]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Finite/Sigma.lean]:
```suggestion
  simp +contextual
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Review by Vierkantor — COMMENTED** [review]
Unfortunately this PR is going against our design patterns, so I don't think we should merge it in the current form. The pattern we use for `Finite` is to add three things to a file in `Data/Finite` (here `Data/Finite/Sigma.lean`):

* An instance of `Finite` on the type itself (these currently already exist for `Sigma` and `PSigma`
* An instance of `Finite` on the set coerced to a type, which is hopefully provable by showing `Set.sigma` coerced to a type is equivalent to `Sigma`: see e.g. [`Finite.Set.finite_prod`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finite/Prod.html#Finite.Set.finite_prod).
* Finally, a theorem with conclusion `Set.Finite` (like you add in this PR), which is hopefully provable by `Set.toFinite` and the instance above.

If you'd like help implementing those steps, please let me know.

**Comment by peakpoint** [comment]
@Vierkantor How does it look now? Unfortunately, I can't put `Equiv.Set.sigma` in the same file as `Equiv.Set.prod` and I feel like it doesn't belong in `Data/Set/Sigma.lean` either.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
